US05162308
Preparation of 1-methyl-4-(trifluoromethyl)pyrrole-3-carboxylic acid
A mixture of ethyl 1-methyl-4-(trifluoromethyl)pyrrole-3-carboxylate (4.4 g, 0.02 mol) and 4N sodium hydroxide (5 ml, 0.02 mol) in ethanol is stirred for 24 hours at room temperature, diluted with water and extracted with ether. The aqueous phase is acidified with 10% HCl and filtered. The filter cake is washed with water and dried in vacuo at 45° C. to afford the title compound as an off-white solid, 2.4 g (62%), mp 210°-212° C.

reactant | ethyl 1-methyl-4-(trifluoromethyl)pyrrole-3-carboxylate | 0.02 mol, 4.4 g | CN1C=C(C(=C1)C(F)(F)F)C(=O)OCC | C9H10F3NO2
reactant | sodium hydroxide | 0.02 mol, 4N, 5 ml | [OH-].[Na+]
solvent | ethanol | C(C)O | C2H6O
solvent | water | O | H2O
product | 1-methyl-4-(trifluoromethyl)pyrrole-3-carboxylic acid | CN1C=C(C(=C1)C(F)(F)F)C(=O)O | C7H6F3NO2
